US08809525B2
6-(3-Methylpiperidin-1-yl)-5-phenyl-1,2,4-triazin-3-amine (30 mg, 14%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.21 g, 0.80 mmol) and 3-methylpiperidine (0.21 g, 1.92 mmol) according to the general procedure of Example 2.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 0.80 mmol, 0.21 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3-methylpiperidine | 1.92 mmol, 0.21 g | CC1CNCCC1 | C6H13N
product | 6-(3-Methylpiperidin-1-yl)-5-phenyl-1,2,4-triazin-3-amine | 30 mg, 14% | CC1CN(CCC1)C1=C(N=C(N=N1)N)C1=CC=CC=C1 | C15H19N5
